US04564613
3-(1-Piperidinylmethyl)-6-phenyl-8-methyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole
An ice-cooled solution of 1.51 ml (0.01524 mol) of piperidine and 1.14 ml of H2O in 4.6 ml of acetic acid is added, together with 1.14 ml (0.014 mol) of formalin, all at once, to 2.0 g (0.00762 mol) of 8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]indole, with stirring and while flushing with nitrogen. The mixture is then rendered alkaline with 2N NaOH and extracted with CH2Cl2. The CH2Cl2 phase is dried over Na2SO4 and the solvent is stripped off on a rotary evaporator. The residue is chromatographed on silica gel (silica gel 60 from e. Merck, Darmstadt) using an eluent mixture of CH2Cl2 /MeOH/N(C2H5)3 (15:6:0.5). The product is dried in a desiccator over P2O5 under a water pump vacuum.

reactant | piperidine | 0.01524 mol, 1.51 ml | N1CCCCC1 | C5H11N
reactant | H2O | 1.14 ml | O | H2O
reactant | formalin | 0.014 mol, 1.14 ml | C=O | CH2O
reactant | 8-methyl-6-phenyl-6,7,8,9-tetrahydro-1H-pyrido[4,3-g]indole | 0.00762 mol, 2.0 g | CN1CC=2C(=CC=C3C=CNC23)C(C1)C1=CC=CC=C1 | C18H18N2
solvent | acetic acid | 4.6 ml | C(C)(=O)O | C2H4O2
product | 3-(1-Piperidinylmethyl)-6-phenyl-8-methyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole | N1(CCCCC1)CC1CNC2=C3C(=CC=C12)C(CN(C3)C)C3=CC=CC=C3 | C24H31N3
